* C:\Users\theac\OneDrive\Documents\GitHub\Overdrive-Distortion-Guitar-Pedal\ltspice\Overdrive_Distortion_Schematic.asc
XU1 N012 N007 Vpow 0 N007 LT1001
V1 Vs 0 SINE(0 50m 1K) AC 1
Cin N012 Vs 100nF
R1 Vpow N012 1Meg
R2 N012 0 1Meg
Rout N011 N007 470
C1 Vin N011 100nF
XU2 Vin N004 Vpow 0 N006 LT1001
R§Pot1 N006 N005 500K
R4 N001 N004 4.7K
D1 N004 N006 1N4148
D2 N006 N004 1N4148
C2 Vref N001 47nF
C3 N006 N004 51pF
R3 N005 N004 51K
XU3 N009 N002 Vpow 0 N003 LT1001
C4 Vod N013 100nF
C5 N003 N002 470pF
R7 N003 N002 500K
D3 Vds Vref 1N4148
D4 Vref Vds 1N4148
R5 N013 N006 470
R6 N009 Vref 1Meg
Rpull] 0 Vs 1Meg
R8 N002 Vod 1K
V2 Vpow 0 9V
R10 Vpow Vref 1Meg
R11 Vref 0 1Meg
C6 Vref 0 47µ
C7 Vref 0 100n
R12 Vtt N010 20K
C8 N008 Vds 10n
C9 Vtt N008 10n
R13 N008 Vref 10K
C10 N010 Vref 20n
R14 Vds N003 10K
R9 N010 Vds 20K
C11 Vtc Vref 22n
R17 Vtc Vtt 1K
XU4 N017 N015 Vpow 0 N015 LT1001
R18 Vtc Vref 100K
C12 N017 Vtc 100nF
R19 Vref N015 1Meg
C13 Vout N016 1µ
R20 Vout 0 1Meg
R21 N016 N015 470
C14 Vpow 0 100nF
C15 Vpow 0 100µF
.model D D
.lib C:\Users\theac\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
* Overdrive Stage
* Distortion Stage
* Tone/Volume Control
.tran 8m
.lib LTC.lib
.backanno
.end
